US05374772
A mixture of 0.7 g of 3-(decyloxy)-5-[[6-[2,3-bis(phenylmethoxy) phenyl]hexyl]oxy]benzoic acid methyl ester and 0.3 g of 10% palladium on carbon was stirred in a hydrogen atmosphere until uptake ceased after 4.5 hours. After the usual workup, the crude product was triturated with hexane and filtered to give 0.45 g (87% yield, mp 71°-72°) of 3-(decyloxy)-5-[[6-(2,3-dihydroxyphenyl) hexyl]oxy]benzoic acid methyl ester.

reactant | 3-(decyloxy)-5-[[6-[2,3-bis(phenylmethoxy) phenyl]hexyl]oxy]benzoic acid methyl ester | 0.7 g | COC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCCCCCCCCCC)=O | C44H56O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 3-(decyloxy)-5-[[6-(2,3-dihydroxyphenyl) hexyl]oxy]benzoic acid methyl ester | 0.45 g, 87% yield | COC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)O)O)OCCCCCCCCCC)=O | C30H44O6
